data/mechanism_extracts/OrgBiomolChem/10.1039_d4ob00980k.json
{"doi": "10.1039_d4ob00980k", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative radical cascade sulfonylation/cyclization of N-aryl 2-vinylbenzamides with sodium sulfinates to access 3-sulfonylisoindolin-1-ones", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic single-electron oxidation of sulfinate anion (ArSO2-) to sulfonyl radical (ArSO2•); cathode reduces protons to H2", "key_intermediates": [{"name": "Sulfinate anion (A, ArSO2-)", "smiles": "[O-]S(=O)c1ccccc1", "role": "reactive"}, {"name": "Sulfonyl radical resonance form B (ArS(=O)-O•)", "smiles": null, "role": "transient"}, {"name": "Sulfonyl radical C (ArSO2•)", "smiles": "O=[S](=O)c1ccccc1", "role": "reactive"}, {"name": "Benzylic C-radical D from sulfonyl addition to styrenyl amide", "smiles": null, "role": "reactive"}, {"name": "Resonance-stabilized N-centered/iminol radical E", "smiles": null, "role": "transient"}, {"name": "Cyclized cationic iminol intermediate F (after anodic SET)", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, sulfinate (2b) loses one electron to give sulfonyl radical C (via resonance forms A/B); C adds across the alkene of 1a to form benzylic radical D, whose amide resonance form E undergoes intramolecular cyclization onto nitrogen. A second anodic SET gives cation F, which loses H+ to deliver the isoindolin-1-one product 3ab; the cathode produces H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3 equiv TEMPO under standard conditions suppressed product formation (only trace 3aa); supports radical pathway"}, {"name": "1,1-Diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Sulfonyl-DPE adduct 4 detected by NMR in 68%; product 3aa only trace — confirms free sulfonyl radical"}, {"name": "Cyclic voltammetry of substrates", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation potentials measured (ESI) consistent with anodic oxidation of sulfinate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Gram-scale (3.5 mmol, 1.05 g of 1a) reaction delivered 3aa in 70% yield, supporting scalability. No DFT or KIE performed; mechanism is proposed by analogy to prior radical sulfonylation literature."}
